US07179823B1
Sodium hydride (60%, oily, 160 mg) was added to a solution of ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate (849 mg) and 5-chloro-2-(4-chloromethyl-2-pyridyloxymethyl)imidazo[1,2-a]pyridine (1230 mg) in N,N-dimethylformamide (20 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[1-[2-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethyl]-3-ethoxy-1H-pyrazol-4-yl]propionate (1570 mg, yield: 81%) as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | Sodium hydride | 160 mg | [H-].[Na+]
reactant | ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate | 849 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | 5-chloro-2-(4-chloromethyl-2-pyridyloxymethyl)imidazo[1,2-a]pyridine | 1230 mg | ClC1=CC=CC=2N1C=C(N2)COC2=NC=CC(=C2)CCl | C14H11Cl2N3O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[2-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethyl]-3-ethoxy-1H-pyrazol-4-yl]propionate | 1570 mg, yield: 81% | ClC1=CC=CC=2N1C=C(N2)COC2=NC=CC(=C2)CN2N=C(C(=C2)CCC(=O)OCC)OCC | C24H26ClN5O4
